US08026237B2
B. Preparation of 1,4-dimethyl-5-(2-phenoxy-phenyl)-1H-pyrrole-3-carboxylic acid (4-methanesulfonyl-phenyl)-amide
Into a 50 mL round bottom flask was weighed 100 mg of 2-Bromo-1,3-dimethyl-1H-pyrrole-4-carboxylic acid [4-(sulfamoyl)phenyl]-amide (0.27 mmol), 230 mg of (2-phenoxy)phenylboronic acid, potassium hydroxide (30.2 mg, 0.54 mmol), and DAPCy (J. Org Chem (2004), 69: 4330-4335) (6.2 mg, 4 Mol %) and Ethanol/DMF (3 ml, 50:50) was added. The solution was heated at 100° C. overnight. The reaction was cooled and washed into a separatory funnel with ethyl acetate and water. The ethyl acetate washed with water and brine, then was dried (MgSO4), and concentrated in vacuo. The resulting residue was purified by flash chromatography (SiO2), eluting with EtOAc/Hex 0-80% to afford the title compounds as a white solid (10 mg, 8%); 1H NMR (DMSO-d6): δ 7.88 (d, J=9 Hz, 2H), 7.77 (d, J=9 Hz, 2H), 7.60 (s, 1H), 7.43-7.37 (m, 1H), 7.32-7.20 (m, 4H), 7.04 (d, J=9 Hz, 2H), 6.85 (d, J=8 Hz, 2H), 3.52 (s, 3H), 3.04 (s, 3H), 2.20 (s, 3H); MS (ESI) m/z 461 [M+H]+

reactant | 2-Bromo-1,3-dimethyl-1H-pyrrole-4-carboxylic acid [4-(sulfamoyl)phenyl]-amide | 0.27 mmol, 100 mg | S(N)(=O)(=O)C1=CC=C(C=C1)NC(=O)C=1C(=C(N(C1)C)Br)C | C13H14BrN3O3S
reactant | (2-phenoxy)phenylboronic acid | 230 mg | O(C1=CC=CC=C1)C1=C(C=CC=C1)B(O)O | C12H11BO3
reactant | potassium hydroxide | 0.54 mmol, 30.2 mg | [OH-].[K+]
reactant | Ethanol DMF | 3 ml | C(C)O.CN(C)C=O
catalyst | DAPCy | 4 Mol, 6.2 mg | CC(=O)O.CC(=O)O.C1CCC(CC1)[N-]C2CCCCC2.C1CCC(CC1)[N-]C2CCCCC2.[Pd+2]
product | 1,4-dimethyl-5-(2-phenoxy-phenyl)-1H-pyrrole-3-carboxylic acid (4-methanesulfonyl-phenyl)-amide | 10 mg, 8% | CS(=O)(=O)C1=CC=C(C=C1)NC(=O)C1=CN(C(=C1C)C1=C(C=CC=C1)OC1=CC=CC=C1)C | C26H24N2O4S
